US07067517B2
(4-Chloro-phenyl)-methyl-carbamic acid 4-(2-cyano-5-trifluoromethyl-pyridin-3-yloxy)-phenyl ester
The title compound was prepared from 4-(2-cyano-5-trifluoromethyl-pyridin-3-yloxy)-phenol and 3-[(4-chlorophenyl)-methyl-carbamoyl]-1-methyl-3H-imidazol-1-ium iodide. The crude product was purified by preparative HPLC (25%). HPLC-MS m/z=448.2 (M+1), Rt: 5.1 min.

reactant | 4-(2-cyano-5-trifluoromethyl-pyridin-3-yloxy)-phenol | C(#N)C1=NC=C(C=C1OC1=CC=C(C=C1)O)C(F)(F)F | C13H7F3N2O2
reactant | 3-[(4-chlorophenyl)-methyl-carbamoyl]-1-methyl-3H-imidazol-1-ium iodide | [I-].ClC1=CC=C(C=C1)N(C(=O)N1C=[N+](C=C1)C)C
product | (4-Chloro-phenyl)-methyl-carbamic acid 4-(2-cyano-5-trifluoromethyl-pyridin-3-yloxy)-phenyl ester | C(#N)C1=NC=C(C=C1OC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)Cl)=O)C(F)(F)F | C21H13ClF3N3O3
